US07091199B1
Preparation of (2-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I, Compound 1)
Mix 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole (0.40 g, 1.23 mmol), potassium carbonate (0.341 g, 2.47 mmol), 2-fluorobenzylamine (0.626 g, 5.0 mmol) and acetonitrile (5.0 mL) and heat at 80° C., overnight. Cool the reaction mixture and filter through a Waters Sep-Pak 1 g silica cartridge (ethyl acetate). Combine the appropriate fractions and concentrate to give a residue. Purify the residue by column (10 g silica) chromatography using a solvent gradient of 40% ethyl acetate in heptane to 100% ethyl acetate to obtain the title compound (0.378 g, 83% Yield). Purity by LC/MS (APCI)=99%, [M+H]+=369.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | 1.23 mmol, 0.40 g | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | 2.47 mmol, 0.341 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluorobenzylamine | 5.0 mmol, 0.626 g | FC1=C(CN)C=CC=C1 | C7H8FN
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | (2-fluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | 0.378 g, 83% Yield | FC1=C(CNCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C=CC=C1 | C20H17FN2O2S
